US07163947B2
A solution of 1H-imidazo[4,5-c]quinolin-1-amine (2.86 g, 15.5 mmol) in 60 mL of acetonitrile and 15 mL of glacial acetic acid was treated with 2,2-dimethoxypropane (9.53 mL, 77.5 mmol) and heated to 100° C. under an atmosphere of nitrogen. After 18 h, the reaction mixture was concentrated under reduced pressure to give a brown oil. The oil was dissolved in 100 mL of CHCl3 and washed with 5% Na2CO3 solution (2×30 mL), water (30 mL) and brine (30 mL). The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure to yield 3.48 g of N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine as a brown oil.

reactant | 1H-imidazo[4,5-c]quinolin-1-amine | 15.5 mmol, 2.86 g | N1(C=NC=2C=NC=3C=CC=CC3C21)N | C10H8N4
reactant | 2,2-dimethoxypropane | 77.5 mmol, 9.53 mL | COC(C)(C)OC | C5H12O2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine | 3.48 g | N1(C=NC=2C=NC=3C=CC=CC3C21)N=C(C)C | C13H12N4
